Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lower abdominal and back pain
 
Major Surgical or Invasive Procedure:
Removal of IUD
 
History of Present Illness:
Pt is a ___ y/o F with PMHx of PTSD, depression, anxiety,
GERD, as well as prior sleeve gastrectomy who is presented with
subjective fevers, chills, lower abdominal pain, and lower back
pain. Pt endorses 2 prior episodes of similar symptoms since
___. She describes an initial symptom of abdominal bloating
/ fullness, followed by fevers, chills, low back pain, and mid
lower abdominal pain. Symptoms are also associated with nausea.
Symptoms normally start to improve after several hours. The 2
most recent episodes were close together, and symptoms were more
persistent this time. This prompted her to present for
evaluation.

Of note, the patient had a copper IUD placed ___ years ago. She
has noted abdominal menstrual cycles since ___ / ___ of
last year. She also reports 1.5 weeks of vaginal discharge, 
which
is different from discharge she has experience with yeast
infections in the past. She has 1 recent new sexual partner,
approximately 6 weeks ago.

ED Course:
Initial VS: 98 53 125/81 16 100% RA Pain ___
Labs significant for elevated transaminases. UA negative.
Imaging: malpositioned IUD (see below)
Meds given:
___ 22:58 IV CefTRIAXone 250 mg   
___ 22:58 PO Doxycycline Hyclate 100 mg   
___ 23:34 IV Ondansetron 4 mg  
Exam reportedly showing some purulence on pelvic.
VS prior to transfer: 98.4 57 127/77 16 100% RA Pain ___

On arrival to the floor, the patient reports that she feels
slightly better. However, she does report ongoing abdominal and
back pain. She also reports some mild ongoing nausea. Of note,
she does report that her right arm was possibly tingling
yesterday but that this has resolved. She also had some mild
shortness of breath during her episode yesterday which has
resolved.

ROS: As above. Denies chest pain, heart palpitations, cough,
nausea, diarrhea, constipation, urinary symptoms, muscle pains,
skin rash. The remainder of the ROS was negative.

 
Past Medical History:
PTSD                                                            
DEPRESSION                                                      
ANXIETY                                                         
GASTROESOPHAGEAL REFLUX                                         
LEFT ULNAR NERVE NEUROPATHY                                     
BARIATRIC SURGERY                                              
 
Social History:
___
Family History:
Mother and sister with unspecified GYN issues. No FHx of GI
problems.
 
Physical Exam:
Admission PE:
VS - 97.8 97/59 60 16 99%RA
GEN - Alert, NAD
HEENT - NC/AT, no cervical LAD noted
NECK - MMM, supple
CV - RRR, no m/r/g
RESP - CTA B
BACK - mild left sided CVAT
ABD - S/ND, BS present, TTP in the lower abdomen without 
guarding
EXT - No ___ edema or calf tenderness
SKIN - No apparent rashes
NEURO - Nonfocal
PSYCH - Calm, appropriate

Discharge PE:
97.7 92/57 62 16 98% RA
NAD, resting comfortably in bed
HEENT: MMM, OP Clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: soft, lower abdominal tenderness, ND +BS
Ext: no c/c/e
 
Pertinent Results:
Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne, Oxycodone
Negative 

UCG: Negative 

ALT: 266 AP: 97 Tbili: 0.5 Alb: 4.1 
AST: 233 LDH:  Dbili:  TProt:  
___:  Lip: 35     

Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc Negative 

CBC:
7.4  12.5  235 
     39.2  
 N:56.2 L:34.4 M:7.8 E:0.8 Bas:0.5 ___: 0.3 Absneut: 4.13
Abslymp: 2.53 Absmono: 0.57 Abseos: 0.06 Absbaso: 0.04  

UA:
Color Straw  Appear Clear  SpecGr >1.050  pH 6.5  Urobil Neg 
Bili Neg  
Leuk Neg  Bld Neg  Nitr Neg  Prot 30  Glu Neg  Ket Neg  
RBC 1  WBC <1  Bact None  Yeast None  Epi 3    
 
136  103  6     AGap=9 
4.0  28  0.6 
 

EKG: SB, NANI, no concerning signs of ischemia

CT SCAN:
1. Malpositioned IUD, within the cervix extending into the
myometrium.  No evidence perforation outside of the cervix or
uterus.  No free fluid in the pelvis. 
2. No evidence of bowel pathology. 
3. Fibroid uterus. 

Pelvic U/S:
1. Malpositioned IUD within the cervix, as noted on the same day
CT abdomen/pelvis. 
2. Fibroid uterus. 
3. Normal right ovary. Left ovary is not visualized. 

URINE CULTURE: [x]pending []positive:

GC/CT swabs negative

 
Brief Hospital Course:
___ y/o F with PMHx of PTSD, depression,
anxiety, GERD, as well as prior sleeve gastrectomy who is
presented with subjective fevers, chills, lower abdominal pain,
and lower back pain.

# Abdominal Pain / Vaginal Discharge: Given subjective fevers as
well as purulence on pelvic exam, there was concern in the ED 
for
possible PID. She was started on empiric abx for this (although
she vomited up her doxy). Gonorrhea and chlamydia swabs 
negative.
Malpositioned IUD could also be contributing to discomfort. GYN
was consulted, removed IUD and recommended a 7 day course of 
doxycycline. 
- Continue doxycycline for 7 days
- F/u with GN

# Transaminitis: Unclear etiology, no evidence of liver 
abnormalities on CT, no prior history of liver disease or 
hepatitis.  She reports she rarely drinks alcohol.  Not on any 
chronic medications, supplements, herbals.  Transaminitis 
improving on repeat. Viral hepatitis serologies negative.  
- Recommend repeat LFTs with PCP ___ ___ weeks, if still abnormal 
will need further work-up.  

# PTSD / Depression / Anxiety: Recently started on citalopram 
and
prazosin by PCP, but she hasn't started this yet.  Can start 
after discharge.  

# DVT PROPHYLAXIS: [x]heparin sc []SCDs
# CODE STATUS: Presumed full
# DISPOSITION: Home without services.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Prazosin 1 mg PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Prazosin 1 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0
5. Ibuprofen 400 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Malpositioned IUD
Possible PID
Transaminitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with lower abdominal and back pain with CT 
scan showing mal-positioned IUD.  You were seen by the GYN team, 
your IUD was removed, you were also started on antibiotics for 
possible pelvic inflammatory disease.  Please follow-up with the 
GYN team in ___ weeks.

You were also found to have elevated liver tests.  There was no 
evidence of abnormalities of your liver on CT scan and your 
liver tests were improving.  We recommend repeat LFTs in ___ 
weeks with your PCP.  If they are still abnormal you may need 
further testing.
 
Followup Instructions:
___